US04654343
N-[3-(6-Chloro-3-pyridazinyl)phenyl]acetamide
A solution of 34.0 g of 3-(6-chloro-3-pyridazinyl)benzenamine, 18.8 ml of acetic anhydride, 28.7 ml of diisopropylethylamine and 750 ml of dichloromethane was stirred for 2.5 hrs. The solution was concentrated in vacuo to half of the original volume and 200 ml of hexane was added. The solution was filtered, affording 26.4 g of tan solid. The filtrate was washed with saturated aqueous sodium bicarbonate, dried (Na2SO4) and concentrated in vacuo. The residue and the solid collected previously were combined and recrystallized from dichloromethane-acetone-hexane to give 35 g of tan crystals, mp 203°-205° C.

reactant | 3-(6-chloro-3-pyridazinyl)benzenamine | 34.0 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)N | C10H8ClN3
reactant | acetic anhydride | 18.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropylethylamine | 28.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | N-[3-(6-Chloro-3-pyridazinyl)phenyl]acetamide | 26.4 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(C)=O | C12H10ClN3O
